US06034058
N-Benzyloxycarbonyl-L-pyroglutamic acid
L-Pyroglutamic acid (2.02 g, 13.83 mmol) was dissolved in 1 N NaOH (13.84 mL) and the solution was cooled to 0° C. After 30 min stirring, Na2CO3 (3.63 g) and benzyl chloroformate (4.82 mL) in dioxane (21.23 mL) were gradually added in equal portions. Stirring was continued at 0° C. for 1 h, then the solution was stirred overnight at room temperature and extracted with ethyl ether (2×20 mL). The aqueous solution was acidified with 2N HCl to pH 5 and extracted with ethyl acetate (3×50 mL). The ethyl acetate layer was dried over sodium sulfate and evaporated to give an oil, which crystallized overnight. Recrystallization of the crude product gave white crystalline material (2.86 g, 87%): FABMS 240.1 (M+H): HRFABMS Calcd for C13H14NO5 (M+H) 264.0872, Found 264.0866; Calcd for C13H13NaNO5 (M+Na) 286.0691, Found 286.0694.

reactant | L-Pyroglutamic acid | 13.83 mmol, 2.02 g | N1[C@@H](CCC1=O)C(=O)O | C5H7NO3
reactant | Na2CO3 | 3.63 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | benzyl chloroformate | 4.82 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | NaOH | 1 N, 13.84 mL | [OH-].[Na+]
solvent | dioxane | 21.23 mL | O1CCOCC1 | C4H8O2
product | N-Benzyloxycarbonyl-L-pyroglutamic acid | 2.86 g, 87% | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1=O)C(=O)O | C13H13NO5
